US04202901
A mixture of 3.0 g of 5-(3-chloro-2-butenyloxy)-2-pyridinecarboxylic acid methyl ester and 30 ml of 6 N-hydrochloric acid is heated on a steam bath for one hour. After that, the solution is cooled and the pH is adjusted to 5-6. Then the solution is evaporated and the residue extracted with ethanol. The ethanol extract is evaporated to yield 5-(3-chloro-2-butenyloxy)-2-pyridinecarboxylic acid melting at 96°-98°.

reactant | 5-(3-chloro-2-butenyloxy)-2-pyridinecarboxylic acid methyl ester | 3.0 g | COC(=O)C1=NC=C(C=C1)OCC=C(C)Cl | C11H12ClNO3
reactant | hydrochloric acid | Cl | ClH
product | 5-(3-chloro-2-butenyloxy)-2-pyridinecarboxylic acid | ClC(=CCOC=1C=CC(=NC1)C(=O)O)C | C10H10ClNO3
